US05707547
After replacing inner atmosphere of a four-necked flask equipped with a stirring device and a thermometer with nitrogen gas, the flask was charged with 1.26 g (5 mmol) of 2-(4-bromophenyl)-5-hydroxypyrimidine, 0.01 g (0.008 mmol) of tetrakis-triphenylphosphine-palladium, 0.6 g (15 mmol) of sodium hydroxide and 20 ml of tetrahydrofuran. Then, 19.5 ml of a solution prepared by dissolving 7.5 mmol of E-1-nonenylcatecholborane, prepared in the same manner as in Example 2, in tetrahydrofuran was dropwise added at room temperature. The resulting mixture was heated under reflux with stirring for 7 hours. After cooling the mixture to room temperature, the mixture was extracted with 30 ml of toluene, and the organic layer was twice washed with each 10 ml portion of saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent, purification of the residue by silica gel column chromatography gave 1.16 g (yield 75%) of 2-{4-(1-decenyl)-phenyl}-5-hydroxypyrimidine.

reactant | 2-(4-bromophenyl)-5-hydroxypyrimidine | 5 mmol, 1.26 g | BrC1=CC=C(C=C1)C1=NC=C(C=N1)O | C10H7BrN2O
reactant | sodium hydroxide | 15 mmol, 0.6 g | [OH-].[Na+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-{4-(1-decenyl)-phenyl}-5-hydroxypyrimidine | 1.16 g, yield 75% | C(=CCCCCCCCC)C1=CC=C(C=C1)C1=NC=C(C=N1)O | C20H26N2O
